US03979444
The 4-hydroxymethyl-4-(4-chlorophenyl)cyclohexanone is dissolved in 60 ml. of pyridine and 30 ml. of acetic anhydride. After about 20 hours of standing at room temperature, the mixture is poured into ice and water. The gum that precipitates is extracted with ether. The organic layer is washed successively with water, 2.5 N hydrochloric acid, water, sodium bicarbonate solution and brine, and evaporated to dryness to give 12.8 g. (66% yield) of 4-acetoxymethyl-4-(4-chlorophenyl)cyclohexanone, as an amorphous gum.

reactant | 4-hydroxymethyl-4-(4-chlorophenyl)cyclohexanone | OCC1(CCC(CC1)=O)C1=CC=C(C=C1)Cl | C13H15ClO2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | 4-acetoxymethyl-4-(4-chlorophenyl)cyclohexanone | 66% yield | C(C)(=O)OCC1(CCC(CC1)=O)C1=CC=C(C=C1)Cl | C15H17ClO3
